US08309580B2
(2) 2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophene-3-carbaldehyde
To a solution (20 mL) of ethyl 2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophene-3-carboxylate (1.35 g) synthesized above in tetrahydrofuran was added 1.5M diisobutylaluminum hydride in toluene solution (15.1 mL) at 0° C., and the mixture was stirred for 1 hr. 1N Hydrochloric acid was added to quench the reaction, the organic solvent was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give a colorless oil. To a solution of the obtained oil in methylene chloride (20 mL) was added Dess-Martin reagent (2.47 g), and the mixture was stirred at room temperature for 1.5 hr. Saturated aqueous sodium sulfite solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3, volume ratio) to give the title compound (692 mg, 61%) as a colorless oil.

reactant | ethyl 2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophene-3-carboxylate | 20 mL, 1.35 g | C(C)C=1SC(=CC1C(=O)OCC)C1CCOCC1 | C14H20O3S
reactant | diisobutylaluminum hydride | 1.5M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | Dess-Martin reagent | 2.47 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 15.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophene-3-carbaldehyde | 692 mg, 61% | C(C)C=1SC(=CC1C=O)C1CCOCC1 | C12H16O2S
